US05273999
Preparation of 2-[(4-Carboxy-4-methylpentyl)oxy]-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid
Using the procedure of example 126, 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one was converted into the title compound by alkylation with 2-[(5-methoxy-4,4-dimethyl-5-oxopentyl)oxy]-6-[6-[(methylsulfonyl)oxy]hexyl]benzenepropanoic acid methyl ester from the preceding example, followed by saponification, in 33.9% overall yield. The product was a colorless solid, mp 85°-87° C., recrystallized from hexane-ethyl acetate.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-[(5-methoxy-4,4-dimethyl-5-oxopentyl)oxy]-6-[6-[(methylsulfonyl)oxy]hexyl]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1CCCCCCOS(=O)(=O)C)OCCCC(C(=O)OC)(C)C)=O | C25H40O8S
product | 2-[(4-Carboxy-4-methylpentyl)oxy]-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid | C(=O)(O)C(CCCOC1=C(C(=CC=C1)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)O)(C)C | C34H46O8
